US05728686
Diethyl [3-(1,3-dipropylxanthin-7-yl)propyl]phosphonate
The title substance was prepared from 1,3-dibutylxanthine and diethyl 3-bromopropanephosphonate analogously to Example 9.

reactant | 1,3-dibutylxanthine | C(CCC)N1C(=O)N(C=2N=CNC2C1=O)CCCC | C13H20N4O2
reactant | diethyl 3-bromopropanephosphonate | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
product | Diethyl [3-(1,3-dipropylxanthin-7-yl)propyl]phosphonate | C(CC)N1C(=O)N(C=2N=CN(C2C1=O)CCCP(OCC)(OCC)=O)CCC | C18H31N4O5P
